US07635711B2
To a solution of 150 mg (0.66 mmol) of 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine in 2 mL of pyridine was added 165 mg (0.66 mmol) of 2,4-dimethyl-6-nitrobenzenesulfonyl chloride. The mixture stirred at 80° C. in a sealed tube. After 6 hours, the mixture was diluted with 10 mL of saturated aqueous ammonium chloride solution and extracted with three 10 mL portions of ethyl acetate. The combined ethyl acetate layers were washed with five 10 mL portions of 1 N aqueous HCl, three 10 mL portions of brine, and three 10 mL portions of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was chromatographed on silica gel using dichloromethane-hexanes (50-100% gradient). The material from the column was triturated with ether-hexanes to afford 155 mg (53%) of 2,4-dimethyl-6-nitro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide. MS: m/z 442.43 (M+1).

reactant | 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine | 0.66 mmol, 150 mg | FC(C(CC1=CNC2=CC=CC=C12)N)(F)F | C11H11F3N2
reactant | 2,4-dimethyl-6-nitrobenzenesulfonyl chloride | 0.66 mmol, 165 mg | CC1=C(C(=CC(=C1)C)[N+](=O)[O-])S(=O)(=O)Cl | C8H8ClNO4S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
product | 2,4-dimethyl-6-nitro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 155 mg, 53% | CC1=C(C(=CC(=C1)C)[N+](=O)[O-])S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C19H18F3N3O4S
